US04352818
3 g (11 mmol) of (S)-7-chloro-11,12,13,13a-tetrahydro-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepin-9-one in 30 ml of dimethylformamide are stirred at 90° for 30 minutes with 1.60 g of N-chlorosuccinimide. The solution is poured into water and extracted with chloroform. The chloroform extracts are washed several times with water, dried over magnesium sulphate and evaporated. By chromatography on a silica gel column and subsequent recrystallization from ethyl acetate there is obtained (S)-1,7-dichloro-11,12,13,13a-tetrahydro-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepin-9-one of melting point 209°-210°.

reactant | (S)-7-chloro-11,12,13,13a-tetrahydro-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepin-9-one | 11 mmol, 3 g | ClC=1C=CC2=C(C(N3[C@H](C=4N2C=NC4)CCC3)=O)C1 | C14H12ClN3O
reactant | N-chlorosuccinimide | 1.60 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | water | O | H2O
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | (S)-1,7-dichloro-11,12,13,13a-tetrahydro-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepin-9-one | ClC=1N=CN2C1[C@H]1N(C(C3=C2C=CC(=C3)Cl)=O)CCC1 | C14H11Cl2N3O
